US04125614
(h) 0.5 mol of di-n-butyl amine
4-chloro-3-di-n-butylsulfamoylbenzoic acid, melting point: 73°-75° C. (from methylcyclohexane)

reactant | 4-chloro-3-di-n-butylsulfamoylbenzoic acid | ClC1=C(C=C(C(=O)O)C=C1)S(N(CCCC)CCCC)(=O)=O | C15H22ClNO4S
reactant | methylcyclohexane | CC1CCCCC1 | C7H14
product | di-n-butyl amine | C(CCC)NCCCC | C8H19N
